US07579140B2
4.1 Preparation of 1-(2-(2-methoxyethoxy)ethyl)-2,3,3-trimethyl-3H-indolium bromide
To 2,3,3-trimethylindolenine (1.59 g) was added 1-bromo-2-(2-methoxyethoxy)ethane (2.75 g) and dichlorobenzene (5 ml). The mixture was heated to 70° C. overnight. The volatiles were stripped and the material purified by HPLC.

reactant | 2,3,3-trimethylindolenine | 1.59 g | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
reactant | 1-bromo-2-(2-methoxyethoxy)ethane | 2.75 g | BrCCOCCOC | C5H11BrO2
reactant | dichlorobenzene | 5 ml | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
product | 1-(2-(2-methoxyethoxy)ethyl)-2,3,3-trimethyl-3H-indolium bromide | [Br-].COCCOCC[N+]1=C(C(C2=CC=CC=C12)(C)C)C | InChI=1S/C16H24NO2.BrH/c1-13-16(2,3)14-7-5-6-8-15(14)17(13)9-10-19-12-11-18-4;/h5-8H,9-12H2,1-4H3;1H/q+1;/p-1
